US09259470B2
1M HCl (35 mL) was added to 4-(2-fluoropyridin-4-yl)-N-(tetrahydro-2H-pyran-4-yl)pyrimidin-2-amine (0.32 g, 1.2 mmol). The mixture was heated at reflux overnight. The cooled reaction mixture was neutralized with solid NaHCO3. The resulting solid was collected by vacuum filtration, washed into a flask with EtOAc/MeOH, evaporated and dried to afford 4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one (0.30 g, 1.1 mmol, 94% yield). 1H NMR (400 MHz, (CD3)2SO) δ 11.74 (br s, 1H), 8.40 (d, 1H), 7.48 (d, 1H), 7.33 (d, 1H), 7.11 (d, 1H), 6.99 (br s, 1H), 6.85-6.76 (m, 1H), 4.04-3.92 (m, 1H), 3.92-3.85 (m, 2H), 3.45-3.36 (m, 2H), 1.90-1.81 (m, 2H), 1.59-1.48 (m, 2H); m/z (APCI-pos) M+1=273.1.

reactant | HCl | 1M, 35 mL | Cl | ClH
reactant | 4-(2-fluoropyridin-4-yl)-N-(tetrahydro-2H-pyran-4-yl)pyrimidin-2-amine | 1.2 mmol, 0.32 g | FC1=NC=CC(=C1)C1=NC(=NC=C1)NC1CCOCC1 | C14H15FN4O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one | 1.1 mmol, 0.30 g, 94% yield | O1CCC(CC1)NC1=NC=CC(=N1)C1=CC(NC=C1)=O | C14H16N4O2
